US09447083B2
2-Bromo-4,6-dimethylphenol (1.8 g, 8.9 mmol) was dissolved in dimethoxyethane/water (2:1). Furan-3-ylboronic acid (1 g, 8.9 mmol), Pd(dppf)Cl2 (0.36 g, 0.45 mmol) and sodium carbonate (3.7 g, 45 mmol) were added thereto, followed by stirring for 1 hour under reflux. After the completion of the reaction, the reaction mixture was added with a saturated sodium hydrogen carbonate aqueous solution, and extracted with ethyl acetate. The obtained organic layer was dried over magnesium sulfate, concentrated under reduced pressure, and purified by column chromatography to obtain 2-(furan-3-yl)-4,6-dimethylphenol (0.9 g, 54%).

reactant | 2-Bromo-4,6-dimethylphenol | 8.9 mmol, 1.8 g | BrC1=C(C(=CC(=C1)C)C)O | C8H9BrO
reactant | Furan-3-ylboronic acid | 8.9 mmol, 1 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 45 mmol, 3.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethoxyethane water | C(OC)COC.O
catalyst | Pd(dppf)Cl2 | 0.45 mmol, 0.36 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(furan-3-yl)-4,6-dimethylphenol | 0.9 g, 54% | O1C=C(C=C1)C1=C(C(=CC(=C1)C)C)O | C12H12O2
